US05736534
To 6-chloroindoline (52 mg, 0.339 mmol) and pyridine (23.3 mg, 0.294 mmol) in i-PrOH (3 mL) was added 4-chloro-6,7-(ethylenedioxy)quinazoline (65 mg, 0.284 mmol). The mixture was heated to reflux under dry N2(g) for 16 hours and then concentrated in vacuo. The residue was partitioned between CHCl3 and saturated aqueous NaHCO3, and the organic phase was washed with brine, dried over Na2SO4(s), and concentrated in vacuo. The residue was flash chromatographed on silica using 30% acetone/hexanes to afford 84 mg of 4-(6-chloro-2,3-dihydro-indol-1-yl)-7,8-dihydro-[1,4]dioxino [2,3-g]quinazoline as its free-base (M.P. 209°-211° C.; GC/MS: 339 (M+); anal. RP18-HPLC RT: 5.02 min).

reactant | 6-chloroindoline | 0.339 mmol, 52 mg | ClC1=CC=C2CCNC2=C1 | C8H8ClN
reactant | pyridine | 0.294 mmol, 23.3 mg | N1=CC=CC=C1 | C5H5N
reactant | 4-chloro-6,7-(ethylenedioxy)quinazoline | 0.284 mmol, 65 mg | ClC1=NC=NC2=CC3=C(C=C12)OCCO3 | C10H7ClN2O2
solvent | i-PrOH | 3 mL | CC(C)O | C3H8O
product | 4-(6-chloro-2,3-dihydro-indol-1-yl)-7,8-dihydro-[1,4]dioxino [2,3-g]quinazoline | 84 mg | ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC3=C(C=C12)OCCO3 | C18H14ClN3O2
